US04766127
A solution of 205 mg of methyl 2-(3-pyridylmethyl)naphthalene-6-carboxylate hydrochloride in 15 ml of 6N hydrochloric acid was refluxed for 18 hours. The solution was cooled to room temperature and the precipitate filtered off, washed with cold 6N hydrochloric acid followed by acetone and air dried to give 2-(3-pyridylmethyl)naphthalene-6-carboxylic acid hydrochloride, m.p. 265°-270° C.

reactant | methyl 2-(3-pyridylmethyl)naphthalene-6-carboxylate hydrochloride | 205 mg | Cl.N1=CC(=CC=C1)CC1=CC2=CC=C(C=C2C=C1)C(=O)OC
solvent | hydrochloric acid | 6N, 15 ml | Cl | ClH
product | 2-(3-pyridylmethyl)naphthalene-6-carboxylic acid hydrochloride | Cl.N1=CC(=CC=C1)CC1=CC2=CC=C(C=C2C=C1)C(=O)O | InChI=1S/C17H13NO2.ClH/c19-17(20)16-6-5-14-9-12(3-4-15(14)10-16)8-13-2-1-7-18-11-13;/h1-7,9-11H,8H2,(H,19,20);1H
